### PR TITLE
feat(QuantumMechanics): derivative operators via Fourier-conjugated m…

### PR DESCRIPTION
**Pull request by adambornemann-glitch**
…ultiplication

Define `derivOperator f`, the Fourier conjugate 𝓕⁻¹ ∘ 𝓜 (f ∘ 2π•) ∘ 𝓕 of the multiplication operator, for a symbol `f` of the wavenumber `k`.

- `derivOperator` with domain/apply characterizations and `aestronglyMeasurable_comp_two_pi_smul` (rescaling is quasi-measure- preserving for the Haar measure)
- `derivOperator_hasDenseDomain` for a.e.-strongly-measurable symbols
- `derivOperator_adjoint` : `(derivOperator f)† = derivOperator (conj ∘ f)`
- `derivOperator_isSelfAdjoint` for real-valued symbols
- `schwartzSubmodule_le_derivOperator_domain` for temperate-growth symbols
- supporting unitary-conjugation transfers in Unbounded.lean §B.5: `unitaryConj_mono`, the involution pair (simp), and `unitaryConj_adjoint`

### CODE REVIEW

File: Physlib/QuantumMechanics/Operators/Derivative.lean [hunk 1]
```diff
@@ -0,0 +1,116 @@
...
+-/
+
+@[expose] public section
+
+namespace QuantumMechanics
+namespace SpaceDHilbertSpace
+noncomputable section
+
+open MeasureTheory ComplexConjugate
+open LinearPMap
```
Comment (gloges) [inline Physlib/QuantumMechanics/Operators/Derivative.lean]:
```suggestion
open LinearPMap Real
```
Might be convenient to have the `π` notation since `2 * Real.pi` is common - up to you!

File: Physlib/QuantumMechanics/Operators/Derivative.lean [hunk 2]
```diff
@@ -0,0 +1,116 @@
...
+public import Physlib.QuantumMechanics.Operators.Multiplication
+public import Physlib.QuantumMechanics.Operators.SpectralTheory.SelfAdjoint
+/-!
+
+# Derivative operators
+
+## i. Overview
+
+Every constant-coefficient differential operator is, up to the Fourier transform, a multiplication
+operator. In this module we take that as a definition: for a symbol `f : Space d → ℂ`, a function
```
Comment (gloges) [inline Physlib/QuantumMechanics/Operators/Derivative.lean]:
```suggestion
Every constant-coefficient differential operator is unitarily equivalent, via the Fourier transform, to a multiplication
operator. In this module we take that as a definition: for a symbol `f : Space d → ℂ`, a function
```
Something like this might be clearer.

File: Physlib/QuantumMechanics/Operators/Derivative.lean [hunk 3]
```diff
@@ -0,0 +1,116 @@
...
+of the wavenumber `k`, the derivative operator `derivOperator f` is the conjugate
+`𝓕⁻¹ ∘ 𝓜 (f ∘ 2π•) ∘ 𝓕` of the multiplication operator by the Fourier unitary, through
+`LinearPMap.unitaryConj`.
```
Comment (gloges) [inline Physlib/QuantumMechanics/Operators/Derivative.lean]: We should explain the design decision to have explicit factors of 2π here.

File: Physlib/QuantumMechanics/Operators/Derivative.lean [hunk 4]
```diff
@@ -0,0 +1,116 @@
...
+
+/-!
+## A. The derivative operator
+-/
+
+variable {d : ℕ} {f : Space d → ℂ}
+
+/-- The derivative operator with symbol `f : Space d → ℂ`, a function of the wavenumber `k`. -/
+def derivOperator (f : Space d → ℂ) : SpaceDHilbertSpace d →ₗ.[ℂ] SpaceDHilbertSpace d :=
+  (𝓜 volume fun ξ => f ((2 * Real.pi) • ξ)).unitaryConj (fourierUnitary d).symm
```
Comment (gloges) [inline Physlib/QuantumMechanics/Operators/Derivative.lean]:
```suggestion
/-- The derivative operator with symbol `f : Space d → ℂ`, interpreted as a function of the wavenumber `k`. -/
def derivOperator (f : Space d → ℂ) : SpaceDHilbertSpace d →ₗ.[ℂ] SpaceDHilbertSpace d :=
  (𝓜 volume (f ∘ fun k ↦ (2 * π) • k)).unitaryConj (fourierUnitary d).symm
```

File: Physlib/QuantumMechanics/Operators/Derivative.lean [hunk 5]
```diff
@@ -0,0 +1,116 @@
...
+
```
Comment (gloges) [inline Physlib/QuantumMechanics/Operators/Derivative.lean]: 1) Let's add a `derivOperator_eq` lemma expressing the definition of `derivOperator f`.
2) It might be nice to have a `\MCD` notation for `derivOperator` analogous to that for `mulOperator`.

File: Physlib/QuantumMechanics/Operators/Derivative.lean [hunk 6]
```diff
@@ -0,0 +1,116 @@
...
+/-- The wavenumber rescaling `ξ ↦ 2πξ` preserves a.e.-strong measurability of symbols:
+nonzero scaling is quasi-measure-preserving for the Haar measure. -/
+lemma aestronglyMeasurable_comp_two_pi_smul (hf : AEStronglyMeasurable f volume) :
+    AEStronglyMeasurable (fun ξ : Space d => f ((2 * Real.pi) • ξ)) volume :=
```
Comment (gloges) [inline Physlib/QuantumMechanics/Operators/Derivative.lean]:
```suggestion
/-- a.e. strong measurability is preserved under composition with scalar multiplication. -/
lemma aestronglyMeasurable_comp_const_smul
    {μ : Measure (Space d)} [μ.IsAddHaarMeasure] (hf : AEStronglyMeasurable f μ) (c : ℝ) :
    AEStronglyMeasurable (f ∘ fun k ↦ c • k) μ := by
```
This can be generalized: your proof works for any nonzero `c` and for `c = 0` it's a constant function.

File: Physlib/QuantumMechanics/Operators/Derivative.lean [hunk 7]
```diff
@@ -0,0 +1,116 @@
...
+  hf.comp_quasiMeasurePreserving
+    ⟨measurable_const_smul _, by
+      rw [Measure.map_addHaar_smul volume (by positivity)]
+      exact Measure.smul_absolutelyContinuous⟩
+
+/-- Membership: `ψ ∈ D(derivOperator f)` iff `𝓕ψ` lies in the domain of multiplication by the
+rescaled symbol. -/
+lemma mem_derivOperator_domain_iff {ψ : SpaceDHilbertSpace d} :
+    ψ ∈ (derivOperator f).domain
+      ↔ fourierUnitary d ψ ∈ (𝓜 volume fun ξ => f ((2 * Real.pi) • ξ)).domain := Iff.rfl
```
Comment (gloges) [inline Physlib/QuantumMechanics/Operators/Derivative.lean]:
```suggestion
lemma mem_derivOperator_domain_iff {ψ : SpaceDHilbertSpace d} :
    ψ ∈ (derivOperator f).domain ↔ 𝓕 ψ ∈ (𝓜 volume (f ∘ fun k ↦ (2 * π) • k)).domain := Iff.rfl
```
Remember from #1426 that `𝓕 ψ` is the simp normal form of `fourierUnitary d ψ`.

File: Physlib/QuantumMechanics/Operators/Derivative.lean [hunk 8]
```diff
@@ -0,0 +1,116 @@
...
+
+/-- The defining formula: `derivOperator f ψ = 𝓕⁻¹ ((f ∘ 2π•) · 𝓕ψ)`. -/
+lemma derivOperator_apply (ψ : (derivOperator f).domain) :
+    derivOperator f ψ = (fourierUnitary d).symm
+      ((𝓜 volume fun ξ => f ((2 * Real.pi) • ξ))
+        ⟨fourierUnitary d ↑ψ, mem_derivOperator_domain_iff.mp ψ.2⟩) := rfl
```
Comment (gloges) [inline Physlib/QuantumMechanics/Operators/Derivative.lean]:
```suggestion
lemma derivOperator_apply (ψ : (derivOperator f).domain) :
    derivOperator f ψ =
      𝓕⁻ ((𝓜 volume (f ∘ fun k ↦ (2 * π) • k)) ⟨𝓕 ψ.1, mem_derivOperator_domain_iff.mp ψ.2⟩) :=
  rfl
```
Same here.

File: Physlib/QuantumMechanics/Operators/Derivative.lean [hunk 9]
```diff
@@ -0,0 +1,116 @@
...
+  (mulOperator_hasDenseDomain (aestronglyMeasurable_comp_two_pi_smul hf)).unitaryConj_dense_domain
+
+/-- The adjoint of a derivative operator is the derivative operator of the conjugate symbol:
+`(derivOperator f)† = derivOperator (conj ∘ f)`. -/
+lemma derivOperator_adjoint (hf : AEStronglyMeasurable f volume) :
+    (derivOperator f)† = derivOperator (conj ∘ f) := by
+  rw [derivOperator, unitaryConj_adjoint _
+      (mulOperator_hasDenseDomain (aestronglyMeasurable_comp_two_pi_smul hf)),
+    mulOperator_adjoint_eq_conj (aestronglyMeasurable_comp_two_pi_smul hf)]
+  rfl
```
Comment (gloges) [inline Physlib/QuantumMechanics/Operators/Derivative.lean]:
```suggestion
  simp only [derivOperator_eq, aestronglyMeasurable_comp_const_smul hf, mulOperator_hasDenseDomain,
    unitaryConj_adjoint, mulOperator_adjoint_eq_conj, Function.comp_assoc]
```
`derivOperator_eq` to unpack the definition of the derivative operators and can use `simp` to avoid repetition of the aestronglyMeasurable_comp lemma.

File: Physlib/QuantumMechanics/Operators/Unbounded.lean [hunk 10]
```diff
@@ -640,6 +659,19 @@ preimage of a dense set under a homeomorphism. -/
 lemma HasDenseDomain.unitaryConj_dense_domain (hdense : A.HasDenseDomain) :
     (unitaryConj u A).HasDenseDomain := hdense.preimage u.symm.toHomeomorph.isOpenMap
 
+/-- Unitary conjugation commutes with the adjoint `(u A u⁻¹)† = u A† u⁻¹` for a densely defined `A`.
+-/
+lemma unitaryConj_adjoint
+    [CompleteSpace H] [CompleteSpace H'] (u : H ≃ₗᵢ[ℂ] H') (hdense : A.HasDenseDomain) :
+    (unitaryConj u A)† = unitaryConj u A† := by
```
Comment (gloges) [inline Physlib/QuantumMechanics/Operators/Unbounded.lean]: I think this should be a simp lemma.
Also, I'm pretty sure the `hdense` hypothesis can be removed: if `A` is not densely defined then both sides are zero operators (c.f. `adjoint_apply_of_not_dense`) so just need to check domains match.

File: Physlib/QuantumMechanics/Operators/Derivative.lean [hunk 11]
```diff
@@ -0,0 +1,116 @@
...
+- `derivOperator_hasDenseDomain` : it is densely defined for a.e.-strongly-measurable `f`.
+- `derivOperator_adjoint` : its adjoint is the derivative operator of the conjugate symbol.
+- `derivOperator_isSelfAdjoint` : it is self-adjoint for real-valued `f`.
+- `schwartzSubmodule_le_derivOperator_domain` : the Schwartz submodule lies in the domain for
+    temperate-growth `f`.
+
+## iii. Table of contents
+
+- A. The derivative operator
+- B. The Schwartz submodule in the domain
```
Comment (gloges) [inline Physlib/QuantumMechanics/Operators/Derivative.lean]: Let's organize by (def + defining properties), (domain), (adjoints). We'll definitely have more domain-type lemmas in the future so best to keep them together from the beginning.

**Review by gloges — COMMENTED** [review]
Thanks, these look good! I've left a few minor suggestions to improve the documentation, organization and Fourier/simp lemmas. There are also two lemmas which can be generalized while (I think!) leaving the proofs essentially unchanged.

**Comment by adambornemann-glitch** [comment]
done!
-awaiting-author

File: Physlib/QuantumMechanics/Operators/Unbounded.lean [hunk 12]
```diff
@@ -620,6 +620,25 @@ lemma unitaryConj_apply_map (y : A.domain) :
...
+lemma unitaryConj_symm_unitaryConj (u : H ≃ₗᵢ[ℂ] H') (A : H →ₗ.[ℂ] H) :
+    unitaryConj u.symm (unitaryConj u A) = A := by
+  ext x hx hx'
+  · simp [mem_unitaryConj_domain_iff]
+  · simp [unitaryConj_apply]
+
+/-- Conjugating by `u⁻¹` and then by `u` recovers the original operator. -/
+@[simp]
+lemma unitaryConj_unitaryConj_symm (u : H ≃ₗᵢ[ℂ] H') (B : H' →ₗ.[ℂ] H') :
+    unitaryConj u (unitaryConj u.symm B) = B := unitaryConj_symm_unitaryConj u.symm B
```
Comment (gloges) [inline Physlib/QuantumMechanics/Operators/Unbounded.lean:640]:
```suggestion
@[simp]
lemma unitaryConj_refl : unitaryConj (LinearIsometryEquiv.refl ℂ H) A = A := rfl

@[simp]
lemma unitaryConj_unitaryConj (u' : H' ≃ₗᵢ[ℂ] H'') :
    unitaryConj u' (unitaryConj u A) = unitaryConj (u.trans u') A := by
  ext <;> simp
```
These can be generalized.

**Review by gloges — COMMENTED** [review]
One more opportunity for generalization that we both missed.
Can you also go through and clean up the implicit/explicit arguments and add appropriate simp tags for the `unitaryConj` lemmas? The rule of thumb is that args should be explicit unless they can be inferred from other arguments. I think that `unitaryConj_apply` and `mem_unitaryConj_domain_iff` are deserving of simp tags, but let me know what you think.
